US05424329
5-Methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxamide
A mixture of 5-methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid (4.0 g, 15 mmol; Unangst PC, et al., J. Med. Chem. 1989;32:1360) and 1,1'-carbonyldiimidazole (2.6 g, 16 mmol) in 75 mL of acetonitrile is stirred at reflux for 2 hours. The mixture is cooled slightly and 75 mL of concentrated ammonium hydroxide is added. After stirring for 15 minutes, the mixture is added to 600 g of ice and water. The precipitated solid is filtered, washed with water, and recrystallized from aqueous acetonitrile to give 2.1 g (53%) of product; mp 147°-149° C.

reactant | 5-methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxylic acid | 15 mmol, 4.0 g | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)O)OC(C)C | C14H17NO4
reactant | 1,1'-carbonyldiimidazole | 16 mmol, 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 75 mL | [OH-].[NH4+]
reactant | water | O | H2O
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 5-Methoxy-1-methyl-3-(1-methylethoxy)-1H-indole-2-carboxamide | 2.1 g, 53% | COC=1C=C2C(=C(N(C2=CC1)C)C(=O)N)OC(C)C | C14H18N2O3
